US20010009911A1
Step 1: Bis(5-fluoroindol-1-yl)methanone
78.4 mmol of carbonyldiimidazole and 0.2 g of 4-dimethylaminopyridine are added to a solution of 74 mmol of 5-fluoroindole in 300 ml of acetonitrile. After refluxing for 8 hours, and then concentrating, the residue is taken up in a minimum of ether. The solidified product, which corresponds to the expected product, is filtered off.

reactant | carbonyldiimidazole | 78.4 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-fluoroindole | 74 mmol | FC=1C=C2C=CNC2=CC1 | C8H6FN
catalyst | 4-dimethylaminopyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | Bis(5-fluoroindol-1-yl)methanone | FC=1C=C2C=CN(C2=CC1)C(=O)N1C=CC2=CC(=CC=C12)F | C17H10F2N2O
